US07534894B2
4′-Methoxy-4-nitro-biphenyl (4.55 g, 19.8 mmol), prepared in the previous step, in a mixture of glacial acetic acid plus 65 mL of 48% HBr was heated at approximately 120° C. until the reaction was complete by TLC. The reaction was concentrated under reduced pressure and the residue partitioned between diethyl ether and water. The organic layer was separated, dried (Na2SO4) and the solvent removed under reduced pressure to give 4′-hydroxy-4-nitro-biphenyl.

reactant | 4′-Methoxy-4-nitro-biphenyl | 19.8 mmol, 4.55 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO3
reactant | HBr | 65 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4′-hydroxy-4-nitro-biphenyl | OC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9NO3
